US07799779B2
e) Benzyl 4-(4-allyloxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4 ]oxazin-6ylmethoxy]-5 -triisopropylsilanyloxypiperidine-1-carboxylate
1.61 g of sodium hydride dispersion (60%) are added to a solution of 19.76 g of benzyl 4-(4-allyloxyphenyl)-3-hydroxy-5 -triisopropylsilanyloxypiperidine-1-carboxylate and 9.95 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benz[1,4]-oxazin-3-one in 285 ml of N,N-dimethylformamide while the reaction mixture is stirred at 10° C. for 1 hour and at room temperature for 18 hours. The mixture is poured into 1M aqueous sodium bicarbonate solution (700 ml) and extracted with tert-butyl methyl ether 2×800 ml). The organic phases are washed successively with water (2×500 ml) and brine (1×500 ml), dried with sodium sulphate and evaporated. The title compound is obtained from the residue by flash chromatography (SiO260 F). Rf (EtOAc/heptane 2:3)=0.30, Rt=7.15.

reactant | sodium hydride | 1.61 g | [H-].[Na+]
reactant | benzyl 4-(4-allyloxyphenyl)-3-hydroxy-5 -triisopropylsilanyloxypiperidine-1-carboxylate | 19.76 g | C(C=C)OC1=CC=C(C=C1)C1C(CN(CC1O[Si](C(C)C)(C(C)C)C(C)C)C(=O)OCC1=CC=CC=C1)O | C31H45NO5Si
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benz[1,4]-oxazin-3-one | 9.95 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16ClNO3
reactant | sodium bicarbonate | 1M, 700 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 285 ml | CN(C=O)C | C3H7NO
product | Benzyl 4-(4-allyloxyphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4 ]oxazin-6ylmethoxy]-5 -triisopropylsilanyloxypiperidine-1-carboxylate | C(C=C)OC1=CC=C(C=C1)C1C(CN(CC1O[Si](C(C)C)(C(C)C)C(C)C)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C44H60N2O8Si
